US08471005B2
2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine (125.0 mg, 0.0004350 mol), N,N-Diisopropylethylamine (0.3789 mL, 0.002175 mol) and 4-(4-Methyl-piperazin-1-ylmethyl)-phenylamine (0.179 g, 0.000870 mol) were dissolved in 1-Methoxy-2-propanol (0.500 mL, 0.00512 mol) and the reaction was irradiated at 300 watts, 180° C. for 40 minutes or until HPLC showed consumption of starting material. The reaction mixture was then reduced en vacuo and the product was isolated and purified by Gilson prep HPLC to afford 46.12 mg of [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-amine as a lyophilized powder. (M+H)=429.07. 1H NMR (400 MHz, DMSO, d6) δ 9.55 (s, 1H), 8.97 (s, 1H), 7.79 (dd, 1H, J=1.64, 5.97 Hz), 7.73 (d, 2H, J=8.36 Hz), 7.48 (m, 1H), 7.22 (d, 3H, J=7.96 Hz), 7.12 (t, 1H, J=7.45 Hz), 6.95 (m, 2H), 3.85 (s, 3H), 3.72 (m, 6H), 3.40 (m, 4H), 2.76 (s, 3H).

reactant | 2-Methanesulfinyl-7-(2-methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazine | 0.0004350 mol, 125.0 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)OC | C14H13N3O2S
reactant | N,N-Diisopropylethylamine | 0.002175 mol, 0.3789 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-(4-Methyl-piperazin-1-ylmethyl)-phenylamine | 0.000870 mol, 0.179 g | CN1CCN(CC1)CC1=CC=C(C=C1)N | C12H19N3
reactant | 1-Methoxy-2-propanol | 0.00512 mol, 0.500 mL | COCC(C)O | C4H10O2
product | [7-(2-Methoxy-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-[4-(4-methyl-piperazin-1-ylmethyl)-phenyl]-amine | 46.12 mg | COC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)CN2CCN(CC2)C | C25H28N6O
